US07465815B2
4-Bromo-1-(4-isopropylphenyl)-2-(2,3,5-trimethylphenoxy)ethanone
Using 2,3,5-trimethylphenol, 4-bromo-2,3,5-trimethylphenol was synthesized in the same manner as in Reference Example 23. Using this compound and 2-bromo-1-(4-isopropylphenyl)ethanone obtained in Reference Example 164, the title compound was synthesized in the same manner as in Reference Example 159. Yield 51%. Melting point: 71-72° C. (ethyl acetate-hexane).

reactant | 2,3,5-trimethylphenol | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | 4-bromo-2,3,5-trimethylphenol | BrC1=C(C(=C(C=C1C)O)C)C | C9H11BrO
reactant | 2-bromo-1-(4-isopropylphenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)C(C)C | C11H13BrO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Bromo-1-(4-isopropylphenyl)-2-(2,3,5-trimethylphenoxy)ethanone | Yield 51% | BrC1=C(C(=C(OCC(=O)C2=CC=C(C=C2)C(C)C)C=C1C)C)C | C20H23BrO2
